US08357679B2
B: 1-(2-Fluoro-4-{4-[4-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethyl-ethyl)-benzyl]-piperazine-1-carbonyl}-phenyl)-3-(1-oxo-tetrahydro-thiopyran-4-yl)-urea
To a stirring solution of 1-[4-(4-{4-[1-(tert-butyl-dimethyl-silanyloxy)-2,2,2-trifluoro-1-trifluoromethyl-ethyl]-benzyl}-piperazine-1-carbonyl)-2-fluoro-phenyl]-3-(1-oxo-tetrahydro-thiopyran-4-yl)-urea (0.173 mmol, 130 mg) in tetrahydrofuran (1 mL) was added potassium fluoride (50% wt on celite) (1.727 mmol, 201 mg). The resulting suspension was heated to 80° C. for 48 hours. The reaction mixture was filtered through celite and purified by SCX chromatography to afford the title compound (20 mg). MS (ESI) m/z 639.0 [M+H]+

reactant | 1-[4-(4-{4-[1-(tert-butyl-dimethyl-silanyloxy)-2,2,2-trifluoro-1-trifluoromethyl-ethyl]-benzyl}-piperazine-1-carbonyl)-2-fluoro-phenyl]-3-(1-oxo-tetrahydro-thiopyran-4-yl)-urea | 0.173 mmol, 130 mg | C(C)(C)(C)[Si](OC(C(F)(F)F)(C(F)(F)F)C1=CC=C(CN2CCN(CC2)C(=O)C2=CC(=C(C=C2)NC(=O)NC2CCS(CC2)=O)F)C=C1)(C)C | C33H43F7N4O4SSi
reactant | potassium fluoride | [F-].[K+]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 1-(2-Fluoro-4-{4-[4-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethyl-ethyl)-benzyl]-piperazine-1-carbonyl}-phenyl)-3-(1-oxo-tetrahydro-thiopyran-4-yl)-urea | 20 mg | FC1=C(C=CC(=C1)C(=O)N1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)NC(=O)NC1CCS(CC1)=O | C27H29F7N4O4S
